US06110920
5 g of 2-amino-5-methyl-3-ethoxycarbonylthiophene together with 2.7 g of 3-cyanopyridine are dissolved in 40 ml of dioxane. Then, gaseous HCl is passed through the solution for 5 hours. After customary workup, 6 g of 3,4-dihydro-4-oxo-2-(pyridin-3-yl)-6-methylthieno[2,3-d]pyrimidine are obtained.

reactant | 2-amino-5-methyl-3-ethoxycarbonylthiophene | 5 g | NC=1SC(=CC1C(=O)OCC)C | C8H11NO2S
reactant | 3-cyanopyridine | 2.7 g | C(#N)C=1C=NC=CC1 | C6H4N2
reactant | HCl | Cl | ClH
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | 3,4-dihydro-4-oxo-2-(pyridin-3-yl)-6-methylthieno[2,3-d]pyrimidine | 6 g | O=C1C2=C(N=C(N1)C=1C=NC=CC1)SC(=C2)C | C12H9N3OS
